US06133258
The reaction procedure of Example 57 was followed except that 1.728 mg (10.97 mmol) of 2-chloronicotinic acid, 15 ml of thionyl chloride, two droplets of DMF, 913 mg of ammonium thiocyanate, 15 ml of acetone, 1.31 g of indoline and 10 ml of acetone were used. As a result, 2.45 g of 2-(indolin-1-yl)-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained.

reactant | 2-chloronicotinic acid | 10.97 mmol, 1.728 mg | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium thiocyanate | 913 mg | [S-]C#N.[NH4+]
reactant | indoline | 1.31 g | N1CCC2=CC=CC=C12 | C8H9N
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(indolin-1-yl)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 2.45 g | N1(CCC2=CC=CC=C12)C=1SC2=C(C(N1)=O)C=CC=N2 | C15H11N3OS
